US04954518
4 g of 3-formyl-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one was dissolved in 20 ml of N,N-dimethylformamide. Thereto was added 850 mg of hydroxylamine hydrochloride. The mixture was stirred for 1 hour at 20°-25° C. The reaction mixture was mixed with 50 ml of ethyl acetate and 100 ml of water. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried with anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The resulting crystal was recrystallized from ethanol to obtain 3.0 g (yield: 72.3%) of 3-hydroxyiminomethyl-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one having a melting point of 199°-200° C.

reactant | 3-formyl-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | 4 g | C(=O)C1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C17H13NO6S
reactant | hydroxylamine hydrochloride | 850 mg | Cl.NO
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-hydroxyiminomethyl-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | 3.0 g, yield: 72.3% | ON=CC1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C17H14N2O6S
